US06218390B1
To a suspension of LiAlH4 (6.0 mmol, 0.23 g) in 25.0 mL of Et2O was added a solution of 5-(3,4-difluoro-phenyl)-morpholin-3-one (2.0 mmol, 0.42 g) in 20.0 mL Et2O and 5.0 mL THF at room temperature. The resulting suspension was heated to reflux for 2 hours and was then quenched with water and aq. NaOH solution. The solid was filtered off and the filtrate was dried over Na2SO4. The filtrate was then decanted and the solvent was removed in vacuo to obtain 5-(3,4-difluoro-phenyl)morpholine as a viscous oil. It was converted to its hydrochloride salt for its analysis. Yellow powder. M.P.=171-173° C.; Mass spec. 200 (M+1, 100%). Analysis calculated for C10H12NOF2Cl.0.5 acetone: C, 51.96; H, 5.61; N, 5.41. Found: C, 51.98; H, 5.70; N, 5.34.

reactant | LiAlH4 | 6.0 mmol, 0.23 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 5-(3,4-difluoro-phenyl)-morpholin-3-one | 2.0 mmol, 0.42 g | FC=1C=C(C=CC1F)C1COCC(N1)=O | C10H9F2NO2
solvent | Et2O | 25.0 mL | CCOCC | C4H10O
solvent | Et2O | 20.0 mL | CCOCC | C4H10O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 5-(3,4-difluoro-phenyl)morpholine | FC=1C=C(C=CC1F)C1COCCN1 | C10H11F2NO
